US06326495B2
In step a of the overall synthesis, 2-pyrrolidinone and 4-iodoanisole are heated in the presence of copper powder and potassium carbonate to give the N-(4-methoxyphenyl)pyrrolidin-2-one, which in step b is treated with ethylmagnesium bromide Grignard reagent to give an aliphatic ketone after ring opening of the pyrrolidinone. This ketone is isolated and then undergoes ring closure to form the 3-hydroxy-1,2,5,6-tetrahydropyridin-2-one intermediate in steps c and d using ethyl oxalyl chloride and sodium hydroxide in step c and sodium ethoxide and ethanol in step d. The corresponding 3-methoxy intermediate is obtained in step e by treatment with 3-methyl-p-tolyltriazine, after which in step f the 4,5,6,7-tetrahydro-7-oxo-1H-pyrazolo[3,4-c]pyridine intermediate is obtained by ring closure using cyclopentyl hydrazine hydrochloride. The 4-methoxyphenyl N-protecting group is removed in step g by treatment with cerium (IV) ammonium nitrate to give the lactam intermediate, after which in step h the lactam intermediate is converted to the corresponding thiolactam intermediate by treatment with phosphorus pentasulfide. The tricyclic final product is prepared in steps i′, j and k by treatment with anhydrous hydrazine in step i, followed by treatment with 2-thiophene carbonyl chloride in step j and refluxing in step k.

reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | 4-iodoanisole | IC1=CC=C(C=C1)OC | C7H7IO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
product | N-(4-methoxyphenyl)pyrrolidin-2-one | COC1=CC=C(C=C1)N1C(CCC1)=O | C11H13NO2
